* AnalogCoder-Pro p15: A single-stage amplifier (common-source with PMOS diode-connected load (gate and drain are shorted))
* Source: analogcoder\AnalogCoderPro-master\sample_design\p15\p15.py
* AnalogCoder-Pro type: Amplifier
* Inputs: Vin
* Outputs: Vout

.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
.MODEL pmos_model PMOS (LEVEL=1 KP=5e-05 VTO=-0.5)

Vdd Vdd 0 5
Vin Vin 0 DC 1 AC 1n
M1 Vout Vin 0 0 nmos_model W=5e-05 L=1e-06
M2 Vout Vout Vdd Vdd pmos_model W=5e-05 L=1e-06

.OP
.AC DEC 100 1 1G
.END
